US06333324B1
To a solution of ethyl (2R)-4-benzyloxycarbonyl-1-tert-butoxycarbonyl-2-piperazinecarboxylate (15.0 g) in dioxane (100 ml) was added 1N NaOH (76.4 ml) at ambient temperature for 4 hours, the reaction mixture was concentrated in vacuo to remove dioxane. The resulting solution was acidified with 3N HCl to be pH2 and extracted with AcOEt (300 ml). The organic layer was washed with saturated NaCl solution, dried over MgSO4 and evaporated in vacuo to give 12.8 g of (2R)-4-benzyloxycarbonyl-1-tert-butoxycarbonyl-2-piperazinecarboxylic acid as an amorphous powder.

reactant | ethyl (2R)-4-benzyloxycarbonyl-1-tert-butoxycarbonyl-2-piperazinecarboxylate | 15.0 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C20H28N2O6
reactant | NaOH | 1N, 76.4 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (2R)-4-benzyloxycarbonyl-1-tert-butoxycarbonyl-2-piperazinecarboxylic acid | 12.8 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
